### PR TITLE
[Merged by Bors] - feat(RingTheory/LocalProperties): Add theorems about LocalizedModule

### PR DESCRIPTION
**Pull request by su00000**
This PR contains:
1. A proof that localization commutes with ranges.
2. Some missing lemmas about localized submodules.
3. A proof that injective, surjective,  bijective (of linear maps) are local properties.

These theorems will be used to prove that flat is a local property in a later PR.

Co-authored-by: Yongle Hu <mbkybky@gmail.com>
Co-authored-by: Yi Song <sif4delta0@mail.ustc.edu.cn>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalProperties/LinearMap.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+section localization_maximal
+
+variable {R M N : Type*} [CommRing R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+  (f : M →ₗ[R] N)
+
+theorem injective_of_localization
+    (h : ∀ (J : Ideal R) (_ : J.IsMaximal), Function.Injective (map J.primeCompl f)) :
+    Function.Injective f :=
+  ker_eq_bot.mp <| eq_bot_of_localization_maximal' <|
+  fun J hJ ↦ (localized'_ker_eq_ker_localizedMap _ _ _ _ f).trans <| ker_eq_bot.mpr <| h J hJ
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/LinearMap.lean:25]: Could you please formulate all these lemmas for an arbitrary family of module satisfying the correct `IsLocalizedModule` predicate? You can have a look at `LocalProperties.Submodule` for a possible setup. I think it should not cause significantly more work, since all the results you use are already formulated in the general setup.

File: Mathlib/RingTheory/LocalProperties/Submodule.lean [hunk 2]
```diff
@@ -99,3 +105,99 @@ theorem Module.subsingleton_of_localization_maximal
   rw [subsingleton_iff_forall_eq 0]
   intro x
   exact Module.eq_of_localization_maximal Rₚ Mₚ f x 0 fun _ _ ↦ Subsingleton.elim _ _
+
+section localization_maximal
+
+open Submodule LocalizedModule Ideal LinearMap
+
+/-- Another version, using `LocalizedModule` instead of `IsLocaliedModule`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/Submodule.lean:113]:
```suggestion
/-- Another version, using `LocalizedModule` instead of `IsLocalizedModule`. -/
```
and below

**Review by chrisflav — COMMENTED** [review]
Thanks for doing this!

File: Mathlib/RingTheory/LocalProperties/Submodule.lean [hunk 3]
```diff
@@ -99,3 +105,99 @@ theorem Module.subsingleton_of_localization_maximal
...
+  N = ⊤ := eq_of_localization_maximal' fun _ _ ↦ by simp only [h, localized'_top]
+
+end localization_maximal
+
+section finitespan
+
+open IsLocalizedModule LocalizedModule Ideal
+
+variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
+  (s : Finset R) (spn : Ideal.span (s : Set R) = ⊤)
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Submodule.lean:144]: nothing breaks :)
```suggestion
  (s : Set R) (spn : Ideal.span (s : Set R) = ⊤)
```

File: Mathlib/RingTheory/LocalProperties/LinearMap.lean [hunk 4]
```diff
@@ -0,0 +1,90 @@
...
+  rw [LinearMap.localized'_range_eq_range_localizedMap _ _ (mkLinearMap J.primeCompl M₀) _,
+    LinearMap.localized'_ker_eq_ker_localizedMap _ _ _ (mkLinearMap J.primeCompl M₂)]
+  exact h J hJ
+
+end localization_maximal
+
+section localization_finitespan
+
+variable {R M M' : Type*} [CommRing R] [AddCommGroup M] [Module R M] [AddCommGroup M'] [Module R M']
+  (s : Finset R) (spn : span (s : Set R) = ⊤) (f : M →ₗ[R] M')
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/LinearMap.lean:57]:
```suggestion
  (s : Set R) (spn : span (s : Set R) = ⊤) (f : M →ₗ[R] M')
```

**Comment by alreadydone** [comment]
I'm currently reorganizing/generalizing the file LocalProperties/Submodule at #19118. By introducing [` Submodule.localized₀`](https://github.com/leanprover-community/mathlib4/pull/19118/files#diff-b82a403c68ad063035d33f11de71f74ed1b98bbbe201177ceb9218b3679d3b9aR41) which is a submodule over the base ring rather than the localization, I'm able to get rid of `Rₚ` in this file completely. I also generalized the results to CommSemirings, and reordered the lemmas to make the development more natural and golf the proofs. Should I incorporate the new lemmas in this PR into my PR, or should this PR adapt to my changes (maybe after mine is merged)?

**Comment by su00000** [comment]
I'm not sure which of the settings is better. Can we discuss this in [Zulip](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2319080.20Theorems.20about.20LocalizedModule)?

File: Mathlib/Algebra/Module/LocalizedModule/Submodule.lean [hunk 5]
```diff
@@ -195,4 +195,28 @@ lemma LinearMap.toKerLocalized_isLocalizedModule (g : M →ₗ[R] P) :
     LinearEquiv.ofEq _ _ (localized'_ker_eq_ker_localizedMap S p f f' g)
   IsLocalizedModule.of_linearEquiv p (Submodule.toLocalized' S p f (ker g)) (e.restrictScalars R)
 
+open Submodule IsLocalizedModule
+
+/-- Localization commutes with ranges. -/
+lemma LinearMap.localized'_range_eq_range_localizedMap (g : M →ₗ[R] P) :
+    localized' S p f' (LinearMap.range g) =
+      LinearMap.range ((map p f f' g).extendScalarsOfIsLocalization p S) := by
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/LocalizedModule/Submodule.lean:203]: I've started adapting new materials in this PR to my #19118 at [here](https://github.com/leanprover-community/mathlib4/pull/19126/commits/8e0bcab8308b5cbe0d39123c5e778a675ed6fb7e).

File: Mathlib/RingTheory/LocalProperties/Submodule.lean [hunk 6]
```diff
@@ -99,3 +106,182 @@ theorem Module.subsingleton_of_localization_maximal
...
+section span
+
+open IsLocalizedModule LocalizedModule Ideal
+
+variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
+  (s : Set R) (spn : Ideal.span s = ⊤)
+include spn
+
+theorem eq_zero_of_localization_span (x : M)
+    (h : ∀ r : s, (mkLinearMap (Submonoid.powers r.1) M ) x = 0) : x = 0 := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Submodule.lean:149]: #19126 now contains `span` lemmas too, but only the `IsLocalizedModule` version. I've been able to golf the two largest proofs. Please feel free to copy from or merge #19126, preferably after #19126 is merged into master.

File: Mathlib/RingTheory/LocalProperties/Submodule.lean [hunk 7]
```diff
@@ -99,3 +106,182 @@ theorem Module.subsingleton_of_localization_maximal
...
   exact Module.eq_of_localization_maximal Rₚ Mₚ f x 0 fun _ _ ↦ Subsingleton.elim _ _
+
+section localization_maximal
+
+open Submodule LocalizedModule Ideal LinearMap
+
+/-- Another version, using `LocalizedModule` instead of `IsLocalizedModule`. -/
+lemma Submodule.le_of_localization_maximal' {N H : Submodule R M}
+    (h : ∀ (J : Ideal R) [J.IsMaximal], localized J.primeCompl N ≤ localized J.primeCompl H) :
+    N ≤ H := Submodule.le_of_localization_maximal (fun P ↦ (Localization P.primeCompl))
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Submodule.lean:117]: I'm worried about the inconsistency of names: for `maximal` lemmas you add a `'` for the LocalizedModule version, but for the `span` lemmas you add a `'` for the IsLocalizedModule version. I think the latter convention is better, because the LocalizedModule versions are easier to apply and should be considered the default, so their names shouldn't have a `'`.

File: Mathlib/RingTheory/LocalProperties/Exactness.lean [hunk 8]
```diff
@@ -0,0 +1,245 @@
...
+section localization_maximal
+
+variable {R M N : Type*} [CommRing R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+  (f : M →ₗ[R] N)
+
+theorem injective_of_localization
+    (h : ∀ (J : Ideal R) (_ : J.IsMaximal), Function.Injective (map J.primeCompl f)) :
+    Function.Injective f :=
+  ker_eq_bot.mp <| eq_bot_of_localization_maximal' <|
+  fun J hJ ↦ (localized'_ker_eq_ker_localizedMap _ _ _ _ f).trans <| ker_eq_bot.mpr <| h J hJ
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Exactness.lean:29]: Once #19118 is merged, this (and other lemmas below) can be generalized to AddCommMonoid/CommSemiring. `ker_eq_bot` doesn't work in that setting but you can directly use [Module.eq_of_localization_maximal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/LocalProperties/Submodule.html#Module.eq_of_localization_maximal).

File: Mathlib/RingTheory/LocalProperties/Exactness.lean [hunk 9]
```diff
@@ -0,0 +1,245 @@
...
+  [inst : ∀ (P : Ideal R) [P.IsMaximal], IsLocalizedModule P.primeCompl (g P)]
+  (k : M →ₗ[R] N)
+include Rₚ
+
+/-- A variant of `injective_of_localization` that accepts `IsLocalizedModule`.-/
+theorem injective_of_localization'
+    (H : ∀ (P : Ideal R) (_ : P.IsMaximal), Function.Injective (map P.primeCompl (f P) (g P) k)) :
+    Function.Injective k :=
+  ker_eq_bot.mp <| eq_bot_of_localization_maximal Rₚ Mₚ f _ <| fun P hP ↦
+    (localized'_ker_eq_ker_localizedMap (Rₚ P) _ (f P) (g P) k).trans <| ker_eq_bot.mpr <| H P hP
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/Exactness.lean:92]: I think it is easier if you do it the other way round, i.e. first prove the general version, then just plugin in `LocalizedModule` etc. into the general version to obtain the specialized one. Also I think the general version deserves the unprimed name, or even `injective_of_isLocalized` and `injective_of_localized`.

Comment (chrisflav) [reply Mathlib/RingTheory/LocalProperties/Exactness.lean:92]: (same applies below)

File: Mathlib/RingTheory/LocalProperties/Submodule.lean (hunk 7 above)
Comment (chrisflav) [reply Mathlib/RingTheory/LocalProperties/Submodule.lean:117]: Oh now seeing this. I would argue the other way round or even propose, as above, `of_isLocalized` vs `of_localized`. This is clear and avoids a `'`.

Comment (alreadydone) [reply Mathlib/RingTheory/LocalProperties/Submodule.lean:117]: #19118 is now merged, and I'm following this `localized` vs `isLocalized` convention [in #19126](https://github.com/leanprover-community/mathlib4/pull/19126/commits/b9bce1857ba2ceb3d94215cde96679db7f772cc0), but I only applied it to new `span` lemmas but not yet the existing `maximal` lemmas, and I only introduced the `isLocalized` version. If @su00000 and @erdOne agree, let's make the `maximal` lemmas follow the new convention too, and deprecate the old names.

Comment (su00000) [reply Mathlib/RingTheory/LocalProperties/Submodule.lean]: Sorry for my late answer, and thanks for doing these! I'll merge #19126 to #19080. I agree.

Comment (alreadydone) [reply Mathlib/RingTheory/LocalProperties/Submodule.lean]: I've updated #19126 to implement all my suggestions; again, please feel free to merge. I think this is ready to go!

File: Mathlib/RingTheory/LocalProperties/Exactness.lean [hunk 10]
```diff
@@ -0,0 +1,214 @@
...
+
+end isLocalized_span
+
+section localized_span
+
+variable {R M M' : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+  [AddCommMonoid M'] [Module R M'] (s : Set R) (spn : span s = ⊤) (f : M →ₗ[R] M')
+include spn
+
+theorem injective_of_localization_span
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Exactness.lean:184]:
```suggestion
theorem injective_of_localized_span
```
by our new convention. (and everywhere below)

File: Mathlib/RingTheory/LocalProperties/Exactness.lean [hunk 11]
```diff
@@ -0,0 +1,214 @@
...
+  ext x
+  simp only [mem_range, mem_ker] at this ⊢
+  exact this x
+
+end isLocalized_maximal
+
+section localized_maximal
+
+variable {R M N : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+  [AddCommMonoid N] [Module R N] (f : M →ₗ[R] N)
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Exactness.lean:84]: Wht not
```suggestion
variable {R M N L : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
  [AddCommMonoid N] [Module R N] [AddCommMonoid L] [Module R L] (f : M →ₗ[R] N) (g : N →ₗ[R] L)
```
? Then we can remove those variables from `exact_of_localized_maximal`. The same applies to `exact_of_localization_span `.

File: Mathlib/RingTheory/LocalProperties/Exactness.lean [hunk 12]
```diff
@@ -0,0 +1,214 @@
...
+
+theorem injective_of_localized_maximal
+    (h : ∀ (J : Ideal R) [J.IsMaximal], Function.Injective (map J.primeCompl f)) :
+    Function.Injective f :=
+  injective_of_isLocalized_maximal
+    _ (fun P _ ↦ mkLinearMap P.primeCompl M)
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Exactness.lean:90]: Looks like this works everywhere `mkLinearMap` is called:
```suggestion
    _ (fun _ _ ↦ mkLinearMap _ _)
```
but it's up to you whether to replace them.

**Review by alreadydone — COMMENTED** [review]
Last comments; I personally wrote too much code for this PR so I'll wait for another reviewer's approval.

**Comment by alreadydone** [comment]
Looks great! In my branch I've moved a lemma and fixed namespace/capitalization issues: https://github.com/leanprover-community/mathlib4/compare/flat_local...flat_local_demo?expand=1

**Comment by alreadydone** [comment]
@jcommelin Sorry, my mistake. [My previous comment](https://github.com/leanprover-community/mathlib4/pull/19080#issuecomment-2495746238) was meant for #19085. This PR looks perfect to me.

**Review by jcommelin — COMMENTED** [review]
Ok great! Thanks for clearing up the confusion.

bors merge
